US07169778B2
3. 5-Amino-2-[[4-(diethylaminocarbonyl)phenyl]amino]-4-(methylamino)pyrimidine
Hydrogenation of 2-[[4-(diethylaminocarbonyl)phenyl]amino]-4-(methylamino)-5-nitropyrimidine (from Example 2(3) above) over Pd/C gave the title compound as a solid.

reactant | 2-[[4-(diethylaminocarbonyl)phenyl]amino]-4-(methylamino)-5-nitropyrimidine | C(C)N(C(=O)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)[N+](=O)[O-])CC | C16H20N6O3
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-2-[[4-(diethylaminocarbonyl)phenyl]amino]-4-(methylamino)pyrimidine | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)C(=O)N(CC)CC)NC | C16H22N6O
